US04377522
From 4 g (0.011 mol) of 7-amino-5-(o-chlorophenyl)-1,3-dihydro-1-isopropyl-3,3-dimethyl-2H-1,4-benzodiazepin-2-one there is obtained, in analogy to the details in Example 4, via [5-(o-chlorophenyl)-2,3-dihydro-1-isopropyl-3,3-dimethyl-2-oxo-1H-1,4-benzodiazepin-7yl]isocyanate, 1-[5-(o-chlorophenyl)2,3-dihydro-1-isopropyl-3,3-dimethyl-2-oxo-1H-1,4-benzodiazepin-7-yl]-3-(2-hydroxyethyl)urea of melting point 243°-244° (1,2-dichloroethane/methylene chloride).

reactant | [5-(o-chlorophenyl)-2,3-dihydro-1-isopropyl-3,3-dimethyl-2-oxo-1H-1,4-benzodiazepin-7yl]isocyanate | ClC1=C(C=CC=C1)C1=NC(C(N(C2=C1C=C(C=C2)N=C=O)C(C)C)=O)(C)C | C21H20ClN3O2
reactant | 1-[5-(o-chlorophenyl)2,3-dihydro-1-isopropyl-3,3-dimethyl-2-oxo-1H-1,4-benzodiazepin-7-yl]-3-(2-hydroxyethyl)urea | ClC1=C(C=CC=C1)C1=NC(C(N(C2=C1C=C(C=C2)NC(=O)NCCO)C(C)C)=O)(C)C | C23H27ClN4O3
solvent | 1,2-dichloroethane methylene chloride | ClCCCl.C(Cl)Cl
product | 7-amino-5-(o-chlorophenyl)-1,3-dihydro-1-isopropyl-3,3-dimethyl-2H-1,4-benzodiazepin-2-one | 0.011 mol, 4 g | NC=1C=CC2=C(C(=NC(C(N2C(C)C)=O)(C)C)C2=C(C=CC=C2)Cl)C1 | C20H22ClN3O
